US08492582B2
Water (0.6 mL), sodium carbonate (58 mg), tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbonate (85 mg), and bis(triphenylphosphine)palladium(II) dichloride (3.0 mg) were added to an ethylene glycol dimethyl ether (2.0 mL) suspension of tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate (0.10 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour. The reaction mixture was cooled to room temperature, and then ethyl acetate and a 10% aqueous solution of citric acid were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-80% hexane/ethyl acetate] to obtain tert-butyl 4-(3-(tert-butoxycarbonyl)oxyphenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate.

reactant | sodium carbonate | 58 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbonate | 85 mg | B1(OC(C(O1)(C)C)(C)C)C2=CC(=CC=C2)OC(=O)OC(C)(C)C | C17H25BO5
reactant | tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.10 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 3.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 2.0 mL | COCCOC | C4H10O2
solvent | Water | 0.6 mL | O | H2O
product | tert-butyl 4-(3-(tert-butoxycarbonyl)oxyphenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | C(C)(C)(C)OC(=O)OC=1C=C(C=CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C34H34N2O6
